US09212190B2
To a solution of [(3S)-12-[(4-oxocyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl methanesulfonate (500 mg, 1.26 mmol, 1.00 equiv) in methanol (10 mL) was added piperazin-2-one (126 mg, 1.26 mmol, 1.00 equiv) and acetic acid (1 mL). The solution was stirred for 1 h and then acetyl ethaneperoxoate sodioboranyl acetate (534 mg, 2.52 mmol, 2.00 equiv) was added. Stirring was continued for 2 h at 0° C. The mixture was then quenched with saturated aqueous sodium bicarbonate, extracted with DCM (60 mL), dried over anhydrous sodium sulfate and concentrated under vacuum. The desired [(3S)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl methanesulfonate (450 mg, 74%) was obtained as a yellow solid.

reactant | [(3S)-12-[(4-oxocyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl methanesulfonate | 1.26 mmol, 500 mg, 1.00 equiv | CS(=O)(=O)OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)=O | C17H20N2O5S2
reactant | piperazin-2-one | 1.26 mmol, 126 mg, 1.00 equiv | N1C(CNCC1)=O | C4H8N2O
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | acetyl ethaneperoxoate sodioboranyl acetate | 2.52 mmol, 534 mg, 2.00 equiv | [Na]BCC(=O)O.C(C)(=O)OOC(C)=O
solvent | methanol | 10 mL | CO | CH4O
product | [(3S)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl methanesulfonate | 450 mg, 74% | CS(=O)(=O)OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N1CC(NCC1)=O | C21H28N4O5S2
